US04223037
First 6.3 pts. by wt. of phosgene and then 11.8 pts. by wt. of tri-n-butylamine are added to a suspension of 8.0 pts. by wt. of 1-propenyl-2-oxo-imidazolidine (prepared according to DAS (German Published Specification) No. 1,057,126) in 100 pts. by vol. of abs. ethyl acetate. The reaction mixture is stirred overnight and concentrated. The 1-chlorocarbonyl-2-oxo-3-propenyl-imidazolidine formed is used for Example 2 in a mixture with tributylammonium chloride. IR (liquid paraffin): 1,800 and 1,710 cm-1.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tri-n-butylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 1-propenyl-2-oxo-imidazolidine | C(=CC)N1C(NCC1)=O | C6H10N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chlorocarbonyl-2-oxo-3-propenyl-imidazolidine | ClC(=O)N1C(N(CC1)C=CC)=O | C7H9ClN2O2
